US04861798
9(4-Methoxyphenyl)nonanohydroxamic acid
To a cold stirring suspension of 1 gm hydroxylamine hydrochloride and 1.3 gm sodium carbonate in 25 ml CH2Cl2 was added dropwise 1.58 gms 9(4-methoxyphenyl)nonanoyl chloride over a period of 15 min. The mixture was then stirred in the cold for a further 45 min, then 1.5 ml H2O was added, the mixture was allowed to warm up to room temperature, and stirring was continued for 72 hrs. The precipitated solid was filtered, washed with water, and crystallized twice from CH2Cl2 to give A. The filtrate from the reaction mixture was evaporated in vacuo to give a granular solid which was also crystallized twice from CH2Cl2 to give B. A and B were shown to be the same by spectral comparison. Total yield (A+B)=1.58 gm (51%) m.p. 96°-98° C. Elemental analysis: calculated C 67.90, H 8.90, N 4.95. Found C 67.96, H 9.08, N 4.95 (calculated for 0.2 moles H2O).

reactant | hydroxylamine hydrochloride | 1 gm | Cl.NO
reactant | sodium carbonate | 1.3 gm | C([O-])([O-])=O.[Na+].[Na+]
reactant | 9(4-methoxyphenyl)nonanoyl chloride | 1.58 gms | COC1=CC=C(C=C1)CCCCCCCCC(=O)Cl | C16H23ClO2
reactant | H2O | 1.5 ml | O | H2O
reactant | H2O | 0.2 moles | O | H2O
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | 9(4-Methoxyphenyl)nonanohydroxamic acid | COC1=CC=C(C=C1)CCCCCCCCC(=O)NO | C16H25NO3
